US06426345B1
A mixture of 3-amino-2-[3-[(E)-2-(4-pyridyl)vinyl]phenylamino]pyridine (575 mg) and 3-(3-pyridyl)pyruvic acid (0.37 g) in ethanol (10.ml) was stirred under reflux for 1.5 hours. After evaporation of the solvent, the residue was chromatographed on silica gel column (chloroform-methanol, 9:1) and crystallized from ethanol to give 2-(3-pyridylmethyl)-4-[3-[(E)-2-(4-pyridyl)vinyl]phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (395 mg).

reactant | 3-amino-2-[3-[(E)-2-(4-pyridyl)vinyl]phenylamino]pyridine | 575 mg | NC=1C(=NC=CC1)NC1=CC(=CC=C1)\C=C\C1=CC=NC=C1 | C18H16N4
reactant | 3-(3-pyridyl)pyruvic acid | 0.37 g | N1=CC(=CC=C1)CC(C(=O)O)=O | C8H7NO3
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-pyridylmethyl)-4-[3-[(E)-2-(4-pyridyl)vinyl]phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 395 mg | N1=CC(=CC=C1)CC1=NC2=C(N(C1=O)C1=CC(=CC=C1)\C=C\C1=CC=NC=C1)N=CC=C2 | C26H19N5O
